US06514968B1
Preparation 52 6-Methoxy-1,2,3,9-tetrahydro-4H-carbazol-4-one
To a mixture of 4-methoxyphenyl hydrazine (0.359 g, 2.06 mmol) in toluene (30 mL) is added 1,3 cyclohexanedione (0.231 g, 2.06 mmol). The mixture is refluxed for 30 minutes. The toluene is removed under reduced pressure and the residue triturated in CH2Cl2: CH3OH (95:5). A white solid is filtered to give 0.2903 g (65%) of the title compound; IR (drift) 3160, 3141, 3114, 3064, 1619, 1588, 1474, 1434, 1277, 1215, 1140, 1015, 844, 802, 791 cm−1. MS (ESI+) for C13H13N1O2 m/z 216 (M+H)+. 1H NMR (DMSO-d6) δ2.08, 2.39, 2., 3.74, 6.74, 7.25, 7.43; Anal Calcd for C13H13NO2: C, 72.54; H, 6.09; N, 6.51. Found: C, 71.48; H, 6.06; N, 6.45.

reactant | 4-methoxyphenyl hydrazine | 2.06 mmol, 0.359 g | COC1=CC=C(C=C1)NN | C7H10N2O
reactant | 1,3 cyclohexanedione | 2.06 mmol, 0.231 g | C1(CC(CCC1)=O)=O | C6H8O2
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 6-Methoxy-1,2,3,9-tetrahydro-4H-carbazol-4-one | 0.2903 g, 65% | COC=1C=C2C=3C(CCCC3NC2=CC1)=O | C13H13NO2
